US09278922B2
(2S,3aS,6aS)-2-benzyl 1-tert-butyl hexahydrocyclopenta[b]pyrrole-1,2(2H)-dicarboxylate
To a solution of (S,S,S)-2-azabicyclo[3,3,0]-octane-3-carboxylic acid benzyl ester hydrochloride (0.50 g, 1.8 mmol) in CH2Cl2 (8.9 mL) at room temperature was added di-tert-butyl dicarbonate (0.45 mL, 2.0 mmol) and Hunig's base (0.77 mL, 4.4 mmol) to give a tan solution. The mixture was stirred for 2 hours at room temperature then diluted with CH2Cl2, washed with saturated sodium bicarbonate solution, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to provide the title compound (0.56 g, 91% yield).

reactant | (S,S,S)-2-azabicyclo[3,3,0]-octane-3-carboxylic acid benzyl ester hydrochloride | 1.8 mmol, 0.50 g | Cl.C(C1=CC=CC=C1)OC(=O)[C@H]1N[C@H]2CCC[C@H]2C1
reactant | di-tert-butyl dicarbonate | 2.0 mmol, 0.45 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Hunig's base | 4.4 mmol, 0.77 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 8.9 mL | C(Cl)Cl | CH2Cl2
product | (2S,3aS,6aS)-2-benzyl 1-tert-butyl hexahydrocyclopenta[b]pyrrole-1,2(2H)-dicarboxylate | 0.56 g, 91% yield | N1([C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2)C(=O)OC(C)(C)C | C20H27NO4
